US04547506
Sodium hydride (1.6 g) was disolved in DMSO (35 ml) at 70°-75° C. under nitrogen. The solution was cooled and 2-(4-aminobutylamino)pyridine (10 g) in DMSO (10 ml) added at room temperature. Benzyl bromide (10.35 g) in DMSO (10 ml) was added dropwise maintaining the temperature at 25°-30° C. After a further 2 hr water (200 ml) was added and the mixture extracted with chloroform. The chloroform extract was washed with 2N hydrochloric acid and the aqueous layer basified to pH 4. After extracting with chloroform the pH was raised to 14 and again extracted with chloroform. After stripping the latter extract the residue was taken up in ether and the solution washed with water. The ether layer was dried (K2CO3) and stripped to give 2-[N-(4-aminobutyl)-N-benzylamino]pyridine (5.61 g) as an oil which was used without further purification. (ii) 2-[N-(4-aminobutyl)-N-benzylamino]pyridine (1 g) and 2-nitroamino-5-(6-methylpyrid-3-ylmethyl)pyrimid-4-one (0.82 g) were heated together under reflux in pyridine (5 ml) for 22 hr. After cooling the mixture was stripped, the residue triturated with ether and crystallised from ethanol/ether to give 2-[4-(N-benzyl-N-pyrid-2-ylamino)butylamino]-5-(6-methylpyrid-3-ylmethyl)pyrimid-4-one 0.4H2O, 1.15 g (80%) mp softens 98°-100° C. melts 120°-22° C. (from ethanol/water).

reactant | Sodium hydride | 1.6 g | [H-].[Na+]
reactant | 2-(4-aminobutylamino)pyridine | 10 g | NCCCCNC1=NC=CC=C1 | C9H15N3
reactant | Benzyl bromide | 10.35 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 200 ml | O | H2O
solvent | DMSO | 35 ml | CS(=O)C | C2H6OS
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 2-[N-(4-aminobutyl)-N-benzylamino]pyridine | 5.61 g | NCCCCN(CC1=CC=CC=C1)C1=NC=CC=C1 | C16H21N3
